US06774136B2
The reaction of 17.0 ml (0.135 mol) dimethylamine solution and 6.8 ml (0.050 mol) 2-methoxybenzaldehyde in accordance with general synthesis instructions 1 and subsequent reaction with 3.0 ml (0.050 mol) acetyl chloride in accordance with general synthesis instructions 3 gave 4.8 g (corresponding to 48% of the yield calculated by theory) (2-methoxy-benzylidene)-dimethyl-ammonium chloride.

reactant | dimethylamine | 0.135 mol, 17.0 ml | CNC | C2H7N
reactant | 2-methoxybenzaldehyde | 0.050 mol, 6.8 ml | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | acetyl chloride | 0.050 mol, 3.0 ml | C(C)(=O)Cl | C2H3ClO
product | (2-methoxy-benzylidene)-dimethyl-ammonium chloride | [Cl-].COC1=C(C=[N+](C)C)C=CC=C1 | InChI=1S/C10H14NO.ClH/c1-11(2)8-9-6-4-5-7-10(9)12-3;/h4-8H,1-3H3;1H/q+1;/p-1
